US09403816B2
2-(3-(Trifluoromethyl)phenyl)acetyl chloride
To a solution of 2-(3-(trifluoromethyl)phenyl)acetic acid (4.78 g, 23.4 mmol) in DCM (46 mL) was added oxalyl chloride (12.9 mL, 25.8 mmol). One drop of DMF was then added and the mixture was stirred for 1.5 hours at room temperature. The mixture was concentrated to afford the title compound.

reactant | 2-(3-(trifluoromethyl)phenyl)acetic acid | 23.4 mmol, 4.78 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | oxalyl chloride | 25.8 mmol, 12.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 46 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | One drop | CN(C)C=O | C3H7NO
product | 2-(3-(Trifluoromethyl)phenyl)acetyl chloride | FC(C=1C=C(C=CC1)CC(=O)Cl)(F)F | C9H6ClF3O
